US05021411
3.34 g (59 mmol) of freshly powdered potassium hydroxide were suspended in 25 ml of N,N-dimethylformamide and treated with 4.0 g (13.2 mmol) of 7-chloro-4,5-dihydro-3-(3-hydroxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one. After stirring at room temperature for 5 minutes the mixture was cooled to 2°, whereupon 4.95 g (31.1 mmol) of bromomethylcyclopropane were added thereto. The reaction mixture was stirred at room temperature for 1 hour and then poured into water. The mixture was extracted three times with methylene chloride, the combined organic extracts were washed with water, dried over magnesium sulfate and evaporated. By crystallization of the residue from ethyl acetate and ether there were obtained 4.0 g (84%) of 7-chloro-3-[3-(cyclopropyl-methoxy)- 1-propynyl]-4,5-dihydro-5 methyl6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one of melting point 124-126°.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 7-chloro-4,5-dihydro-3-(3-hydroxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 13.2 mmol, 4.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CCO)C)=O | C15H12ClN3O2
reactant | bromomethylcyclopropane | 31.1 mmol, 4.95 g | BrCC1CC1 | C4H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-[3-(cyclopropyl-methoxy)- 1-propynyl]-4,5-dihydro-5 methyl6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one | 4.0 g, 84% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CCOCC1CC1)C)=O | C19H18ClN3O2
